US07723332B2
According to general procedure C, 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride (0.35 g, 1.03 mmol) and cyclopropylmethylamine (0.21 mL, 2.57 mmol) were stirred together with dry dichloromethane (5 mL) for 16 hours. 4-bromo-N-(cyclopropylmethyl)-2-(trifluoromethoxy)benzenesulfonamide (0.35 g, 91%) was provided after purification. MS (ESI) m/z 374. HPLC purity 100.0% at 210-370 nm, 9.9 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min

reactant | 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 1.03 mmol, 0.35 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | cyclopropylmethylamine | 2.57 mmol, 0.21 mL | C1(CC1)CN | C4H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-N-(cyclopropylmethyl)-2-(trifluoromethoxy)benzenesulfonamide | 0.35 g, 91% | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1CC1)OC(F)(F)F | C11H11BrF3NO3S
